Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
allopurinol
 
Attending: ___
 
Chief Complaint:
DOE, pedal edema
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ yo with h/o CAD s/p DES, CKD, CHF on torsemide, AF on 
coumadin, p/w worsening pedal edema and "rales in my lungs". Pt 
states she has had 4 small heart attacks and they started with 
these symptoms. The pt states she has been in Afib for 2 weeks. 
She saw her cardiologist recently and because of afib with rate 
of 125bpm in the office her carvedilol was increased from 25 BID 
to ___ Q8H and digoxin was added. Yesterday morning the 
patient noted ankle edema. She took an extra tablet of torsemide 
(total of 80mg) without improvement in her symptoms. She 
presented to the ED out of concern that this was an MI. She 
denies cough or shortness of breath. She denies orthopnea or 
PND. She chronically wakes every 2 hours to urinate and has not 
noticed a change to that pattern. She does not weight herself at 
home. She tries to be careful with salt intake but occasionally 
cheats with bites of pizza or soups. She denies any chest pain. 
No N/V/D, no F/C.  

Of note, pt was admitted in late ___ for Afib with RVR and 
mild CHF exacerbation. She was diuresed with IV lasix and 
metolazone. Dry weight on discharge: 103 kg. Discharged on 
torsemide 40mg daily, which was uptitrated by her cardiologist 
to 60mg BID as an outpatient. She also had RVR which was felt to 
be trigged by CHF exacerbation. Beta blocker was changed from 
carvedilol to metop succinate and diltiazem was added. The 
patient had a rash with those medications so she was switched 
back to carvedilol shortly after discharge. As noted above, 
digoxin was recently added for Afib with RVR in outpatient 
setting.  
 
She had a recent gout flare treated with prednisone taper. Taper 
ended about 10 days ago.  

In the ED intial vitals were: 0 98.1 87 160/62 15 92%  
 
EKG: NSR, rate 86, normal intervals, normal axis, TWF aVL, TWI 
V1, unchanged from prior (___)  
Labs/studies notable for: Anemia similar to prior, INR 1.8, Cr 
1.8 (similar to baseline), Trop 0.04, BNP 1200 ___ of what it 
was in ___, CXR unremarkable, U/A 9 WBC/3 epis/no 
bacteria/neg nitr.  
Patient was given: 40 IV lasix and ASA to equal 325mg for the 
day  
Vitals on transfer: 0 86 123/89 19 97% RA  

On the floor patient reports improved breathing with nasal 
cannula. No chest pain. No cough. ROS is positive for bursitis 
on Right knee, arthritis in hands, and shoulder arthritis.  

 
Past Medical History:
1. CARDIAC RISK FACTORS: + Diabetes, + Dyslipidemia + 
Hypertension

2. CARDIAC HISTORY:  
- CABG: None 
- PERCUTANEOUS CORONARY INTERVENTIONS: Reportedly in ___. 
- PACING/ICD: None

3. OTHER PAST MEDICAL HISTORY: 
- HTN, labile
- HLD
- HYPOTHYROIDISM 
- RETINAL ARTERY OCCLUSION - BRANCH 
- MIGRAINE EQUIVALENT 
- CAD/MI (MIs in ___ and ___: This demonstrated a mid 

RCA lesion which was stented with a drug-eluting stent. LAD had 
a proximal 30% stenosis, left circumflex had a ostial 50% 
stenosis. The distal RCA also had a 50% stenosis) 
- CHF (EF 60-65% in ___
- OBESITY,
- insulin-dependent DMII 
- Gout 
- Renal artery stenosis 
- CKDIII
- Anemia
- a-fib on anticoagulation
- Depression
 
Social History:
___
Family History:
"Everybody's dead. I don't remember."
 
Physical Exam:
Admission:
VS: T=98.1 BP=155/64 HR=77 RR=18 O2 sat=96% 2L NC, Wt 107.2kg 
standing  
GENERAL: Obese white woman in NAD. Oriented x3. Gets agitated 
when home meds are placed in lock box.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple with JVP of 12 cm.  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RRR, normal S1, S2. Systolic murmur, no rubs/gallops. No 
thrills, lifts.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. Crackles at right base. 
No wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c. 1+ pitting edema on b/l ankles.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  

Discharge:
VS: 97.5, 183/59 (140-180/50-100), 66 (60-90), 16, 78/ra
Wt: 106-1 -> 105.9
IO: (trending weights given that pt will not allow us to record)
Tele: NSR
GENERAL: Obese white woman in NAD. Oriented x3. 
HEENT: Sclera anicteric. PERRL, EOMI.  
CARDIAC: Normocardic, regular, no MRG. 
LUNGS: No incr WOB. Normal RR. Minimal bibasilar crackles. 
ABDOMEN: Soft, NTND. 
EXTREMITIES: No c/c. 1+ pitting edema on b/l ankles.  
SKIN: No stasis dermatitis, ulcers, obvious rashes.  
PULSES: Distal pulses palpable and symmetric  
 
Pertinent Results:
Admission:
___ 10:15PM BLOOD WBC-7.2 RBC-3.56* Hgb-11.1* Hct-33.1* 
MCV-93 MCH-31.3 MCHC-33.6 RDW-15.8* Plt ___
___ 10:15PM BLOOD Neuts-69.3 ___ Monos-5.1 Eos-2.2 
Baso-0.4
___ 10:15PM BLOOD ___ PTT-40.4* ___
___ 10:15PM BLOOD Glucose-264* UreaN-70* Creat-1.8* Na-133 
K-4.6 Cl-92* HCO3-26 AnGap-20
___ 10:15PM BLOOD proBNP-1210*
___ 10:15PM BLOOD cTropnT-0.04*
___ 06:23AM BLOOD CK-MB-2 cTropnT-0.03*

Discharge:
Patient declined labs on ___

Micro: 
None

Studies:

___ Cardiovascular ECHO   
   Conclusions  
The patient exercised for 2 minutes and 30 seconds according to 
a Gervino treadmill protocol ___ METS) reaching a peak heart 
rate of 99 bpm and a peak blood pressure of 190/70 mmHg. The 
test was stopped because of fatigue and the patient's request. 
This level of exercise represents a very poor exercise tolerance 
for age. In response to stress, the ECG showed no ST-T wave 
changes (see exercise report for details). There is resting 
systolic hypertension. The blood pressure response to exercise 
was normal normal. There was a blunted heart rate response to 
stress [beta blockade]. 
   Resting images were acquired at a heart rate of 76 bpm and a 
blood pressure of 160/70 mmHg. These demonstrated normal 
regional and global left ventricular systolic function. E/e' 
suggests increased PCWP. Right ventricular free wall motion is 
normal. There is no pericardial effusion. Doppler demonstrated 
mild-moderate mitral regurgitation with no aortic stenosis, 
aortic regurgitation or significant resting LVOT gradient. There 
is severe pulmonary artery systolic hypertension. 
Echo images were acquired within 48 seconds after peak stress at 
heart rates of 93 - 82 bpm. These demonstrated appropriate 
augmentation of all left ventricular segments. E/e’ was 20 at 78 
seconds after exercise and was similar to baseline, suggesting 
no abnormal increase in left ventricular filling pressure during 
exercise There was augmentation of right ventricular free wall 
motion. 
   IMPRESSION: Very poor functional exercise capacity. No ECG or 
2D echocardiographic evidence of inducible ischemia to achieved 
very low workload. No change in diastolic LV parameters with 
exercise. Resting hypertension with blunted heart rate response 
to physiologic stress. Mild-moderate mitral regurgitation at 
rest. Severe PA systolic hypertension at rest.   

___ Cardiovascular STRESS   
IMPRESSION: Very poor exercise capacity in the absence of 
symptoms. No 
ischemic ST segment changes to achieved very low level of work. 
Resting 
systolic hypertension with low normal blood pressure and blunted 
heart 
rate response to exercise. Echo report sent separately. 

___ Cardiovascular ECG  
Sinus rhythm. Slight ST segment depression in leads V4-V6. 
Consider ischemia. ST segment depression is new compared to the 
previous tracing. 

___ Imaging CHEST (PA & LAT) 
No evidence of acute cardiopulmonary disease. 
 

 
Brief Hospital Course:
___ with history of CAD s/p mid-RCA DES ___, paroxysmal afib on 
coumadin, heart failure with preserved EF, and TDM2 presenting 
with ankle edema, found to have mildly elevated troponin, 
admitted for r/o ACS (negative) and diuresis. Her bilat ___ edema 
is thought to have a significant component of CVI. She is also 
having difficult interactions with healthcare providers.

ACTIVE PROBLEM LIST
diastolic CHF, acute on chronic
pedal edema
HTN
possible ACS
atrial fibrillation
abusive behavior towards staff

# dCHF, acute on chronic: Pt presented mildly vol up on exam, 
weight 107 kg up from dry weight of 103kg. She also had mild 
pedal edema. Echo with PAH as above; in the past, per Atrius 
attg, she's had this on inpatient echos during CHF exacerbations 
that improved on outpatient echos, suggesting high filling 
pressures in stg of volume overload.
- monitoring: tele, daily weight, I/O, BID lytes
- diuresis: treated with furosemide IV 120 BID + metolazone 5 
with neg 1.5-2L diuresis. Transitioned from IV to home torsemide 
prior to discharge. Dry weight ***  
- home meds: cont BBL, dig. dig level therapeutic this 
admission. 
- reassess TTE as outpatient

# HTN: Patient registering occasional SBPs in 180s. Viewing her 
VS with O2 desaturation and HTN, and considering her body 
habitus, suspect she may have OSA. When we've proposed this 
before, she adamantly denies that she has this diagnosis; she 
has never had PSG.
- continue home irbesartan
- cont carvedilol 25 TID
- consider adding an additional antihypertensive
- diuresis as above
- transitional: outpatient PSG to eval for OSA

# Pedal edema: Mild CHF exacerbation + CVI. Diuresis as above. 
CTM. likely needs compression stockings for LEs but refusing. 

# ACS Rule out / CAD: ECG/biomarkers neg for ASA. Stress test 
without ischemia as above. For CAD, cont ASA, BBL, ___. Patient 
refuses statin ___ myalgias with atorva/simva/prava.  

# Atrial fibrillation: Currently NSR after recent increase in 
carvedilol as well as addition of digoxin by her cardiologist. 
Afib may have been triggered by recent prednisone treatment for 
gout. INR subtherapeutic at 1.8. Received her higher dose 
warfarin today per usual schedule.  
-cont warfarin at home dose, daily INR
-cont carvedilol and digoxin  
-dig level therapeutic 

# Abusive behavior towards staff: Patient demanding 
interventions from healthcare personnel (further details below), 
using expletives and insults with treating physicians. Patient 
Relations consulted - patient indicated she had no problems with 
health care staff and that she'd had a "wonderful experience," 
per Relations staff. To best meet her needs, we limited 
interactions with the patient. Team rounds to prevent ambiguity 
of plan. We suspect she has borderline personality disorder 
superimposed on her other psychiatric illness. For extended 
documentation of the challenges she posed and our thoughts, 
please see "Other Addenda" below.

CHRONIC
# T2DM: cont home lantus 20u QHS; HISS  
# CKD III: Baseline cr 1.6, likely DM and HTN. Cr 1.8 on 
admission. Has gone up to 2.7 during prior admissions for 
diuresis.  
# HLD: continue home dose Ezetimibe  
# Gout: Recently finished prednisone taper. continue Febuxostat  

# Psych: Continue BuPROPion (Sustained Release) 150 mg PO QAM  

TRANSITIONAL
- Med changes: increased carvedilol from ___ -> ___

- HTN: patient with elevated BPs in house. may need uptitration 
of antihypertensives. likely also needs sleep study for OSA.

- OSA: patient spiking SBPs to 180s-190s overnight in setting of 
SaO2 desaturations to high ___. she is obese by BMI 
criteria. when we queried her re: OSA/sleep study, she indicated 
she lives alone and no one could report on snoring history. 
denies daytime somnolence. adamantly asserts that she does not 
have this dx and refuses even consideration of sleep study. 
likely should be readdressed as an outpatient. 

- T2DM: patient with elevated FSG in house but refusing our 
sliding scale. at first, we offered her more and she refused it. 
then, she wanted more than we were giving her. we had lengthy 
discussions with her - she wanted us to just administer her 
exactly the number she indicated depending on her sugar, which 
we told her we could not do for her safety. we checked A1c 
(8.6%), and tried to counsel her that we could help get sugars 
under better control, but she adamantly refused. perhaps she'll 
be more interested in the outpatient setting, but she's at high 
risk of ASCVD and worsening renal failure as a result of her 
adamant refusal to change her insulin use habits. 

OTHER ADDENDA
Documentation of patient's abusive behavior towards staff:

1. Excerpt from ___ attending's note:

"Patient seen and examined along with Dr. ___, on
bedside rounds.  
No events on tele o/n. Labs showing ongoing elevation of BUN,
stable Cr 1.9, HCO3 stable @ 28, K 4.6. Troponin remained flat @
___ yesterday, negative MB.  
Bedside rounds were very challenging - Ms. ___ appeared to be
very upset, asking why she was not getting her home torsemide
dose and why she had not yet received any diuretics this 
morning.
We advised her that in order for the medical team to make a
decision re: diuretic management, we need to see/examine her,
look at her objective data (labs, urine output, etc.) to
determine what was the appropriate next step..."

"During the bedside rounding, as well as discussion, Ms. ___
became increasingly ___ and belligerent.  

"When asked about her leg tenderness to palpation, she repeated
that it was tender if her legs were pressed too hard. When asked
if this was a chronic issue, she responded "why don't you tell
me."  

"When we were discussing her UOP and response to diuretics. She
stated that she was upset that she had not gotten her morning
torsemide and that no one had been by to discuss with her. She
had received a dose of IV lasix late last night, and we 
discussed
that oral diuretics, when not effective at home, are replaced
with iv diuretics, as previously explained by the ___ team upon
admission. We explained that she had not received any further
diuretics as of yet, as we need to determine her clinical
response to the medications."

"When asked about her urination response, she stated that she
would to the bathroom, and self-record the amt of urine in the
collecting hat, and then flush it down the drain. We advised her
that our preference would be that the RNs formally measure and
record the UOP and to not have her discard it. She became quite
upset, saying that it "was a waste of professional time, as I
have a college degree and can read numbers." We advised that our
customary hospital practice is to have the RN staff formally
measure and record UOP, as this is their area of expertise, to
ensure accurate measurements, and thus appropriate medical Rx.
She stated that she would not comply with this request, stating
that we were "stupid" and when asked why she was against this,
stated that "it is disgusting" to have urine remain in the hat.
We also advised that RN staff could promptly come to measure and
dispose of the urine, to which she objected ___ she felt RN 
staff
was too slow and that this was all 'ridiculous.' 
 
"Discussed that we were trying to do our best to take care of 
her
from a medical standpoint, and our discussion above was to try 
to
be as accurate and thorough as possible. However, with ongoing
attempt to discuss the above, she indicated that she no longer
wanted to continue the discussion, and then called Dr. ___ "a
son of a bitch" and stated that she did not trust either of us.  


"Discussed also with the RN staff and team to also contact
patient relations."

2. Other behaviors

- The first night of her hospitalization, I walked into her room
and she demanded, "Where's my home torsemide!?" We tried to
explain that, during IV diuresis, we hold home medications and
that we were actually giving her double her home dose. She
replied, "Well you clearly haven't fixed the problem, have you?!
You have no idea what you're doing." and indicated her feet,
which were still notable for 1+ edema.  

- On a daily basis, referred to me as "stupid," "incompetent," 
or
"untrustworthy"; multiple RNs interacting with her had the same
experience.

- Would angrily utter expletives during bedside rounds. For
example, when the attending asked her to sit forward in bed so 
we
could auscultate her lungs, she shouted, "Well, fuck!"

- Refused even a basic discussion of her medications. To take 
one
example, given our difficulties with insulin use and her desire
to have control over insulin administration, I printed the
insulin sliding scale we had ordered for her, provided a writing
implement, and asked her for feedback on how we could order it
differently. She wrote several changes down (most of which
involved not giving any more than 12 units under any
circumstances, for any fingerstick, despite obvious need for 
more
insulin). On multiple occasions, she insisted that she be 
allowed
to self-administer insulin or specify the exact dose she should
receive. 
   I explained that we were medically and legally responsible 
for
adequate control of her sugars in the hospital, and that we
likely could not provide whatever dose she wanted based on the
mood of the moment. I also reiterated that we were willing to
negotiate and adjust her insulin dosing with her. She then
shouted, "I know my body! You don't! You clearly don't have any
idea what you're doing and you're not going to help me! Get the
hell out of my room!"
   I returned to try again at a later time; her family member 
was
at bedside. She said, "I'm spending time with my family and
refuse to talk to you. Get the hell out."

3. Thoughts on her behavior: 

She unfortunately displayed hostile and aggressive behavior with
the medical, nursing, and patient care staff on a continuous
basis. We believe this compromises her ability to receive the
best care, as it makes her very resistant to even relatively
innocuous or small recommendations. However, this should not
dissuade health care providers from treating her with respect 
and
from re-addressing her multiple ongoing health concerns. If her
medical problems above remain untreated, she is at high risk of
early morbidity and mortality, and the suffering those will
bring. If she returns to our hospital for ongoing care, we will
do our best to address her problems, negotiate treatments with
her to the best of our ability to do so safely, and treat her
with the respect and dignity due all our patients.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB or wheezing 
2. Aspirin 81 mg PO DAILY 
3. BuPROPion (Sustained Release) 150 mg PO QAM 
4. Ezetimibe 10 mg PO DAILY 
5. Ferrous Sulfate 325 mg PO BID 
6. Levothyroxine Sodium 112 mcg PO DAILY 
7. OxycoDONE (Immediate Release)  10 mg PO Q4H:PRN pain 
8. Cyanocobalamin 1000 mcg IM/SC MONTHLY 
9. irbesartan 150 mg ORAL DAILY 
10. Torsemide 60 mg PO BID 
11. Warfarin 5 mg PO 5X/WEEK (___) 
12. Febuxostat 40 mg PO DAILY 
13. Digoxin 0.125 mg PO 4X/WEEK (___) 
14. Carvedilol 25 mg PO BID 
15. Carvedilol 12.5 mg PO LUNCH 
16. Glargine 20 Units Bedtime
Humalog 10 Units Breakfast
Humalog 10 Units Lunch
Humalog 10 Units Dinner
17. Cyanocobalamin 50 mcg PO BID 
18. Warfarin 6.25 mg PO 2X/WEEK (___) 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
- diastolic heart failure exacerbation
- chronic venous insufficiency

Secondary: 
- hypertension
- type 2 diabetes mellitus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were treated at ___ for a very mild exacerbation of your 
heart failure. We gave you IV diuretics (water pills) to take 
off extra fluid, and then re-started your home medications. 

During your admission, we noticed several other problems that 
you may wish to address with your primary care doctor:

- Hypertension: Your blood pressure was persistently high. You 
may need more blood pressure medication. 

- Sleep Apnea: You also developed some very high blood pressures 
overnight in the setting of low oxygen levels, which suggests a 
diagnosis of obstructive sleep apnea. You should talk to your 
primary care physician about ___ sleep study. 

- Diabetes: Unfortunately, we had some difficulties keeping your 
sugars under control in the hospital. Your measure of long-term 
control, the A1c, is very high (around 9%, where the goal is < 
7% and normal is less than 5.4%). This suggests that you need 
more insulin at regular times of day (before breakfast, lunch, 
dinner, and at bedtime). Your doses of ___ units may not be 
enough, and because your sugars are high, it is safe to give you 
more as long as we increase the amount slowly. We're concerned 
because uncontrolled diabetes can cause heart disease, kidney 
problems, and strokes, and with some modifications to your 
regimen, we think your diabetes can be better controlled and 
your risk of these conditions developing will be lower.

Please see your appointments and medications below.

Sincerely,
Your ___ Cardiology Team  
 
Followup Instructions:
___